Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Episodes of aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old right handed man with PMH 
significant
for bradycardia sp PPM, HTN and HLD who presents from home after
two episodes of difficulty speaking. The patient was at his
families house today for ___. He had just finished washing
his hands after moving his bowels in the bathroom when he 
dropped
the towel into the sink. He became upset by this and frustrated.
When he came out of the bathroom he told his daughter that he
felt dizzy and then he started slurring his words to the point
that he was barely intelligible. His daughter says that when his
speech changed his body became "rigid". which she describes as
standing up with his legs straight and his arms straight down by
his sides. She asked for his hands and some other simple 
commands
which he followed. He did not have any facial asymmetry or
abnormal movements. He was able to walk to a chair and sit down
when guided by his daughter and granddaughter. He slowly came
back to his baseline over ___. He then drank some orange
juice and felt better so he drank a beer. When you ask him about
the event he does recall it but in vague terms. The dizziness he
said felt like "I'm out of my self". When asked if that is a
familiar feeling, he says "oh yes, that happens sometimes". His
family has never seen an event like it. 

About 2 hours later the patient and his daughter were standing 
in
the kitchen when the patient became very emotional (not uncommon
for him) He was crying and telling his daughter how much he 
loved
her when again he started slurring his words and seemed to "have
trouble getting the word out". He seemed like he was trying to
think of the word or verbalize it but wasn't able to speak. What
did come out was slurred but not as bad prior. Unclear if there
were any language errors during either event. the daughter 
thinks
so, the granddaughter think he was just slurring but using real
words. The second event lasted ___ mins. The family then drove
the patient to our ED. 

The patient does report that in addition to his out of body
experiences he does smell something burning about once every 2
weeks. He wonders if a neighbor has burnt something but that has
never turned out to be the case. The patient lives also and if
very independent. He denies any rising abdominal sensation. 

On neuro ROS: the pt denies headache, loss of vision, blurred
vision, diplopia, oscilopsia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
focal weakness, numbness, paresthesias. No bowel or bladder
incontinence or retention. Denies difficulty with gait. 

On general ROS: the pt denies recent fever or chills. No night
sweats or recent weight loss or gain. Denies cough, shortness of
breath. Denies chest pain or tightness, palpitations. Denies
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bowel or bladder habits. No dysuria. Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
 pace maker placed for "slow heart rate"
 GERD
 HTN
 HLD
 Anxiety
 PVD
 Glaucoma 
 macular degeneration 
 recent "laser" procedure on bl eyes. 
 
Social History:
___
Family History:
___
 
Physical Exam:
T: 97.8 HR: 80 BP: 164/32 RR: 18 Sat: 100% on RA 

GENERAL MEDICAL EXAMINATION:
General appearance: alert, in no apparent distress. Hard of
hearing. appears much younger than stated age.  
HEENT: Sclera are non-injected. Mucous membranes are moist. 
CV: Heart rate is regular
Lungs: Breathing comfortably on RA 
Abdomen: soft, non-tender 
Extremities: No evidence of deformities. No contractures. No
Edema. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: Alert and oriented to person place and time. Able
to relate history without difficulty. Attentive to conversation.
Language is fluent and appropriate with intact comprehension,
repetition and naming of both high and low frequency objects.
Normal prosody. There were no paraphasic errors. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. No neglect, left/right confusion or finger agnosia. 

Cranial Nerves:
I: not tested
II: visual fields full to confrontation
III-IV-VI: pupils very small and reactive. OD 0.5mm>OS. Normal
conjugated, extra-ocular eye movements in all directions of 
gaze.
No nystagmus or diplopia.
V: Symmetric perception of LT in V1-3 
VII: Face is symmetric at rest and with activation; symmetric
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug ___ bl 
XII: No tongue deviation or fasciculations

Motor: Normal muscle bulk and tone throughout. No pronator drift
or  rebound
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Toes are down going bilaterally.

Sensory: Decreased vibration bellow the knees bilaterally. some
sensory gradient to pin bellow the knees as well. otherwise
unremarkable pinprick, light touch, vibration and temperature. 
No
agraphesthesia or astereognosis. No extinction to DSS.

Coordination: Finger to nose without dysmetria bilaterally. No
intention tremor. RAM were symmetric with regard to cadence and
speed, no dysdiadochokinesia noted.

Gait: Good initiation. Narrow-based, normal stride and arm 
swing.
Walks holding his cane. 

DISCHARGE EXAM:
Unchanged from admission.
 
Pertinent Results:
___ 04:02PM URINE  HOURS-RANDOM
___ 04:02PM URINE  HOURS-RANDOM
___ 04:02PM URINE  GR HOLD-HOLD
___ 04:02PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:02PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:02PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 04:02PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 03:09PM   %HbA1c-5.7 eAG-117
___ 02:58PM   COMMENTS-GREEN TOP
___ 02:58PM   GLUCOSE-95 NA+-141 K+-4.6 CL--105 TCO2-23
___ 02:56PM   CREAT-1.3*
___ 02:56PM   estGFR-Using this
___ 02:50PM   UREA N-25*
___ 02:50PM   ALT(SGPT)-11 AST(SGOT)-23 ALK PHOS-53 TOT 
BILI-0.4
___ 02:50PM   cTropnT-<0.01
___ 02:50PM   ALBUMIN-4.7 CHOLEST-124
___ 02:50PM   TRIGLYCER-147 HDL CHOL-50 CHOL/HDL-2.5 
LDL(CALC)-45
___ 02:50PM   WBC-8.4 RBC-4.09* HGB-12.7* HCT-38.1* MCV-93 
MCH-31.1 MCHC-33.3 RDW-13.3 RDWSD-45.4
___ 02:50PM   PLT COUNT-200
___ 02:50PM   ___ PTT-27.4 ___

CT HEAD WITHOUT CONTRAST: 
There is no evidence of no evidence of infarction, hemorrhage, 
edema, or mass. 
The ventricles and sulci are prominent, related to 
age-appropriate volume 
loss. 
  
The right maxillary sinus contains a small mucous retention 
cyst.  The mastoid 
air cells are clear.  The visualized portion of the orbits are 
unremarkable. 
  
CTA HEAD: 
There is suggestion nonocclusive narrowing of the left M2 branch 
(see ___:4, 
___:27).  Otherwise, the vessels of the circle of ___ and 
their principal 
intracranial branches are patent without stenosis, occlusion or 
aneurysm 
formation.  There are moderate atherosclerotic calcifications of 
the bilateral 
proximal V4 segments and the bilateral cavernous and supra 
clinoid internal 
carotid arteries.  The left intradural vertebral artery is 
hypoplastic, likely 
congenital.  The dural venous sinuses are patent. 
  
CTA NECK: 
There is a normal 3 vessel branching pattern of the aortic arch. 
 The origins 
of the great vessels are patent.  There are mild atherosclerotic 

calcifications of the aortic arch and proximal left subclavian 
artery. 
  
The bilateral common and external carotid arteries are patent.  
Calcified and 
noncalcified plaque cause approximately 50% stenosis of the 
bilateral proximal 
internal carotid arteries at their bifurcations by NASCET 
criteria. 
  
Both vertebral arteries, including their origins, are patent.  
The right 
vertebral artery is dominant. 
  
OTHER: 
There is mild centrilobular emphysema.  The right thyroid lobe 
contains 2 
hypodense nodules, measuring 1.0 cm and 1.1 cm respectively. 
There is no 
lymphadenopathy by CT size criteria.  There are multilevel 
degenerative 
changes of the cervical spine. 
  
IMPRESSION: 
  
  
1. Nonocclusive stenosis of left MCA M2 branch.  Otherwise 
patent circle of 
___. 
2. Approximately 50% stenosis of the bilateral proximal internal 
carotid 
arteries at their bifurcations by NASCET criteria. 
3. No acute intracranial abnormality. 
4. Right thyroid lobe nodules as described.  Recommend 
correlation with 
obstruction of thyroid cancer.  If clinically indicated, thyroid 
ultrasound 
may be obtained for further evaluation. 

 
Brief Hospital Course:
Mr. ___ was admitted to the neurology service at ___ for 
workup of multiple episodes of aphasia with stiffening, in 
addition to a recent history of olfactory hallucinations.

NCHCT was unremarkable except for fronto-temporal atrophy, CTA 
showed atherosclerotic disease with no limitation in flow. 
HbA1c, TSH, and lipid panel were all wnl, and telemetry showed 
no events. His pacer was interrogated which also showed no 
events. MRI unable to be obtained due to pacer in place.

EEG was performed which was normal. However, given the 
description of events as in HPI, complex partial seizures were 
thought to be the most likely etiology. As such, he was started 
on Keppra 250mg BID. He was discharged home with neurology 
follow up.

At follow up, MRI brain should be considered to evaluate for 
seizure source, if we are able to coordinate with cardiology, 
this was not available over the holiday weekend.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain or fever 
2. Aspirin 81 mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 
4. Lorazepam 0.5 mg PO Q12H:PRN anxiety 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. Pantoprazole 40 mg PO Q24H 
8. Pentoxifylline 400 mg PO TID 
9. Simvastatin 10 mg PO QPM 
10. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain or fever 
2. Aspirin 81 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Lorazepam 0.5 mg PO Q12H:PRN anxiety 
5. Pantoprazole 40 mg PO Q24H 
6. Pentoxifylline 400 mg PO TID 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Simvastatin 10 mg PO QPM 
9. Tamsulosin 0.4 mg PO QHS 
10. Amlodipine 5 mg PO DAILY 
11. LeVETiracetam 250 mg PO BID 
RX *levetiracetam [Keppra] 250 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*5

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with 
several episodes of difficulty speaking. We did a CAT scan of 
your head, and did not find any evidence of stroke. We monitored 
your heart, and found no abnormal rhythms. We did an EEG to look 
at the electrical activity in your brain and the final read is 
still pending.

Based on your symptoms, we are concerned that you may have had 
several small seizures. Therefore, we are starting you on a 
small dose of an anti-seizure medication called Keppra. You 
should take 250mg twice per day.

We found that your TSH was slightly high, and some follow up lab 
tests are pending, you should follow up with your primary care 
doctor regarding this.

You will follow up in neurology clinic, the phone number to 
schedule an appointment is listed below.

It was a pleasure taking care of you during this hospital stay.
 
Followup Instructions:
___